US07015213B1
2-trifluoromethylphenylisothiocyanate
2-trifluoromethylaniline (4.1 ml, 0.0325 mol) is added dropwise at a temperature close to 20° C. and under an argon atmosphere to a mixture containing thiophosgene (2.5 ml, 0.0326 mol) in 43 ml of water. Agitation is carried out for twelve hours then 30 ml of ethyl acetate is added. The organic phase is extracted with water then with a solution of 10% sodium bicarbonate and finally with a solution of salt water. The organic phase is dried over magnesium sulphate and the solvent is evaporated off with a rotary evaporator. The product obtained (6.85 g, 100%) is in the form of a brown oil which is used immediately for the following reaction.

reactant | 2-trifluoromethylaniline | 0.0325 mol, 4.1 ml | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | thiophosgene | 0.0326 mol, 2.5 ml | C(=S)(Cl)Cl | CCl2S
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 43 ml | O | H2O
product | 2-trifluoromethylphenylisothiocyanate | FC(C1=C(C=CC=C1)N=C=S)(F)F | C8H4F3NS
